US06458772B1
To a mixture of DCC (14.8 g, 72 mmol), DMAP (0.88 g, 7.2 mmol) and 4-methoxybenzyl 4,5-dihydroxy-2,2-dimethyl-valerate (20.3 g, 72 mmol) in CH2Cl2 (400 mL) at 0° C., was added dropwise a solution of N-CBz-L-valine (16.2 g, 65 mmol) in CH2Cl2 (100 ml). After 1 h at 0° C., the temperature of the reaction mixture was allowed to assume room temperature and then the mixture was stirred for 5 h at room temperature. The mixture was filtered through a glass filter and the solvent was removed under reduced pressure. The crude product was column chromatographed (silica gel, 2→5% MeOH in CH2Cl2), to give 22.4 g 4-methoxybenzyl 5-(N-CBz-L-valyloxy)-4-hydroxy-2,2-dimethylvalerate.

reactant | DCC | 72 mmol, 14.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-methoxybenzyl 4,5-dihydroxy-2,2-dimethyl-valerate | 72 mmol, 20.3 g | OC(CC(C(=O)OCC1=CC=C(C=C1)OC)(C)C)CO | C15H22O5
reactant | N-CBz-L-valine | 65 mmol, 16.2 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
catalyst | DMAP | 7.2 mmol, 0.88 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-methoxybenzyl 5-(N-CBz-L-valyloxy)-4-hydroxy-2,2-dimethylvalerate | 22.4 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CC(C(=O)OCC1=CC=C(C=C1)OC)(C)C)O | C28H37NO8
